US08377923B2
5-chloro-N′-formyl-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl}-4H-1,2,4-triazol-3-yl)ethoxy)benzohydrazide (200 mg) was dissolved in dichloromethane (3 ml), pyridine (80 μl) was added thereto, followed by cooling to −10° C. Trifluoromethanesulfonic anhydride (140 μl) was added to the reaction solution, followed by stirring at room temperature for 20 hours. The reaction solution was concentrated under reduced pressure and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=98:2 to 90:10), the resulting light yellow solid was dissolved in ethyl acetate (3 ml), and 4M hydrogen chloride-ethyl acetate (100 μl) was added thereto. The precipitated solid was collected by filtration, followed by drying and then drying under reduced pressure. The resulting hydrochloride was suspended in chloroform and the suspension was neutralized with saturated aqueous sodium bicarbonate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by thin layer chromatography (ethyl acetate) and the resulting oily product was powdered with diisopropylether to obtain, as a colorless solid, 2-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3,4-oxadiazole (25 mg).

reactant | 5-chloro-N′-formyl-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl}-4H-1,2,4-triazol-3-yl)ethoxy)benzohydrazide | 200 mg | ClC=1C=CC(=C(C(=O)NNC=O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C21H19ClF3N5O3
reactant | pyridine | 80 μl | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 140 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3,4-oxadiazole | 25 mg | ClC=1C=CC(=C(C1)C=1OC=NN1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C21H17ClF3N5O2
